US05403842
8-(2-chloroethylureido)-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (Intermediate XLIV)
4 ml of 2-chloroethylisocyanate were added, under stirring at ambient temperature, to a solution of 3.9 g of 8-amino-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran in 52 ml of anhydrous dimethylformamide. Stirring was continued at 70° C. for 5 hours. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic phase was evaporated to dryness in vacuo. The residue was suspended in diethyl ether under stirring. The title product was then filtered off and recrystallized from methanol. Yield 3.74 g, m.p. 213°-214° C.

reactant | 2-chloroethylisocyanate | 4 ml | ClCCN=C=O | C3H4ClNO
reactant | 8-amino-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 3.9 g | NC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C16H13NO2
reactant | Water | O | H2O
solvent | dimethylformamide | 52 ml | CN(C=O)C | C3H7NO
product | 8-(2-chloroethylureido)-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | ClCCNC(NC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O)=O | C19H17ClN2O3
